US07202252B2
By the method of Example 2, 2-(acetamino)phenylacetic acid is reacted with 5,6-diamino-1-[2-(4-nitrophenyl)ethyl]-3-propyluracil (6) to yield 8-(2-acetaminobenzyl)-3-[2-(4-nitrophenyl)ethyl]-1-propylxanthine. By methods well known in the art, 8-(2-acetaminobenzyl)-3-[2-(4-nitrophenyl)ethyl]-1-propylxanthine is reduced with hydrazine hydrate or hydrogen gas in the presence of a palladium catalyst to yield 8-(2-acetaminobenzyl)-3-[2-(4-aminophenyl)ethyl]-1-propylxanthine.

reactant | 8-(2-acetaminobenzyl)-3-[2-(4-nitrophenyl)ethyl]-1-propylxanthine | N(C(=O)C)C1=C(CC2=NC=3N(C(N(C(C3N2)=O)CCC)=O)CCC2=CC=C(C=C2)[N+](=O)[O-])C=CC=C1 | C25H26N6O5
reactant | hydrazine hydrate | O.NN
reactant | hydrogen | [H][H] | H2
catalyst | palladium | [Pd] | Pd
product | 8-(2-acetaminobenzyl)-3-[2-(4-aminophenyl)ethyl]-1-propylxanthine | N(C(=O)C)C1=C(CC2=NC=3N(C(N(C(C3N2)=O)CCC)=O)CCC2=CC=C(C=C2)N)C=CC=C1 | C25H28N6O3
